US06303650B1
6-Chloroacetyl-N-trifluoroacetyl-(R)-1-aminoindan
To a suspension of AlCl3 (89.2 g, 0.67 mol) in 1,2-dichloroethane (600 ml) was added chloroacetyl chloride (55.7 ml. 78.9 g, 0.7 mol) dropwise at 0-5° C. under nitrogen for 20 minutes and it was then left to warm up to 20-25° C. To this mixture was added N-trifluoroacetyl-(R)-1-aminoindan (34.4 g, 0.15 mol) for 3 hours at 20-25° C. The resulting mixture was then stirred or an additional 30 minutes and poured into a mixture of ice-cold water (1.5 l) and 1,2-dichloroethane (11). The mixture was stirred for 5 minutes and the layers were separated. The aqueous layer was extracted with 1,2-dichloroethane (2×750 ml). The combined organic layers were washed with water (2×900 ml) and 5% aqueous NaHCO3 solution (3×900 ml). The organic layer was dried (Na2SO4) and the solvent was removed under reduced pressure to give a solid, which was recrystallized from ethanol to give 15 g (48%) of a white solid mp: 166-167° C.

reactant | AlCl3 | 0.67 mol, 89.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 0.7 mol, 55.7 ml, 78.9 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N-trifluoroacetyl-(R)-1-aminoindan | 0.15 mol, 34.4 g | FC(C(=O)N[C@@H]1CCC2=CC=CC=C12)(F)F | C11H10F3NO
solvent | 1,2-dichloroethane | 600 ml | ClCCCl | C2H4Cl2
product | 6-Chloroacetyl-N-trifluoroacetyl-(R)-1-aminoindan | 15 g, 48% | ClCC(=O)C1=CC=C2CC[C@H](C2=C1)NC(C(F)(F)F)=O | C13H11ClF3NO2
